US06528543B1
A solution of 2-(4-bromo-phenyl)-3-cyclopentyl-propionic acid (1.37 g, 4.61 mmol) in methanol (23 mL) was treated slowly with 5 drops of concentrated sulfuric acid. The resulting reaction mixture was heated under reflux for 42 h. The reaction mixture was allowed to cool to 25° C. and then concentrated in vacuo to remove methanol. The residue was diluted with ethyl acetate (200 mL). The organic phase was washed with a saturated aqueous sodium bicarbonate solution (1×100 mL), washed with a saturated aqueous sodium chloride solution (1×100 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 70-230 mesh, 19/1 hexanes/ethyl acetate) afforded 2-(4-bromo-phenyl)-3-cyclopentyl-propionic acid methyl ester (1.40 g, 97%) as a light yellow oil: EI-HRMS m/e calcd for C15H19BrO2 (M+) 310.0568, found 310.0569.

reactant | 2-(4-bromo-phenyl)-3-cyclopentyl-propionic acid | 4.61 mmol, 1.37 g | BrC1=CC=C(C=C1)C(C(=O)O)CC1CCCC1 | C14H17BrO2
reactant | methanol | 23 mL | CO | CH4O
catalyst | sulfuric acid | 5 drops | S(O)(O)(=O)=O | H2O4S
product | 2-(4-bromo-phenyl)-3-cyclopentyl-propionic acid methyl ester | 1.40 g, 97% | COC(C(CC1CCCC1)C1=CC=C(C=C1)Br)=O | C15H19BrO2
